US04260611
12.5 g 3-Chloro-1-phenyl-isoquinoline-4-aldoxime are hydrogenated in 500 ml of methanolic ammonia in the presence of 30 g of prehydrogenated Raney-nickel, at room temperature and under atmospheric pressure. After 30 minutes, the precipitate is filtered off from the catalyst, the solution is concentrated and the residue is chromatographed on 200 g of silica gel using a mixture of chloroform and methanol (8:2). 2.5 g 4-Aminomethyl-3-chloro-1-phenyl-isoquinoline having a melting point from 101° to 103° C. are isolated.

reactant | 3-Chloro-1-phenyl-isoquinoline-4-aldoxime | 12.5 g | ClC=1N=C(C2=CC=CC=C2C1C=NO)C1=CC=CC=C1 | C16H11ClN2O
solvent | ammonia | 500 ml | N | H3N
catalyst | Raney-nickel | 30 g | [Ni] | Ni
product | 4-Aminomethyl-3-chloro-1-phenyl-isoquinoline | 2.5 g | NCC1=C(N=C(C2=CC=CC=C12)C1=CC=CC=C1)Cl | C16H13ClN2
